US09255110B2
2-(cis-2-Amino-cyclohexylamino)-thieno[3,2-d]pyrimidine-7-carboxylic acid benzo[1,3]dioxol-5-ylamide
A suspension of the mixture of 80 mg of 2-Chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid benzo[1,3]dioxol-5-ylamide and 2-(Benzotriazol-1-yloxy)-thieno[3,2-d]pyrimidine-7-carboxylic acid benzo[1,3]dioxol-5-ylamide (from step a) and 0.17 g (1.41 mmole) of cis-1,2-diaminocyclohexane in Dioxane (3 mL) was stirred at 60° C. for overnight. The reaction were cooled down and diluted with CH2Cl2, washed with aqueous Na2CO3, brine, dried over anhydrous Na2SO4, concentrated and purified by flash chromatography (silica gel, 40 g, 0% to 30% MeOH (0.7 N) in CH2Cl2) to 40 mg of 2-(cis-2-Amino-cyclohexylamino)-thieno[3,2-d]pyrimidine-7-carboxylic acid benzo[1,3]dioxol-5-ylamide as light yellow solid. MH+/Z=412.

reactant | 2-Chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid benzo[1,3]dioxol-5-ylamide | 80 mg | O1COC2=C1C=CC(=C2)NC(=O)C2=CSC1=C2N=C(N=C1)Cl | C14H8ClN3O3S
reactant | 2-(Benzotriazol-1-yloxy)-thieno[3,2-d]pyrimidine-7-carboxylic acid benzo[1,3]dioxol-5-ylamide | O1COC2=C1C=CC(=C2)NC(=O)C2=CSC1=C2N=C(N=C1)ON1N=NC2=C1C=CC=C2 | C20H12N6O4S
reactant | cis-1,2-diaminocyclohexane | 1.41 mmole, 0.17 g | N[C@H]1[C@H](CCCC1)N | C6H14N2
solvent | Dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(cis-2-Amino-cyclohexylamino)-thieno[3,2-d]pyrimidine-7-carboxylic acid benzo[1,3]dioxol-5-ylamide | O1COC2=C1C=CC(=C2)NC(=O)C2=CSC1=C2N=C(N=C1)N[C@H]1[C@H](CCCC1)N | C20H21N5O3S
